US05753679
0.32 g (0.0009 mol) of 1-(2-nitro-benzyl)-piperidin-4-yl 4-methyl-benzoate was dissolved in 18 ml of ethanol and treated with 0.192 g of Raney-nickel. The mixture was hydrogenated at room temperature and under normal pressure for 2 hrs. The catalyst was filtered off and, after concentration, the residue was chromatographed on silica gel with ethyl acetate/hexane (1:4) as the eluent. 0.252 g (86%) of 1-(2-amino-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as yellowish crystals; m.p. 123°-1250°.

reactant | 1-(2-nitro-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.0009 mol, 0.32 g | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=C(C=CC=C2)[N+](=O)[O-])C=C1 | C20H22N2O4
solvent | ethanol | 18 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.192 g | [Ni] | Ni
product | 1-(2-amino-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.252 g, 86% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=C(C=CC=C2)N)C=C1 | C20H24N2O2
